data/oMe_Silver.jsonl
{"reaction_id": "NR-116_1-C_2-CCCC(C)C_3-C(F)(F)F_4-C","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(C)C(CCCC(C)C)C(=O)OC(F)(F)F","N#[N+]C"],"products_smiles": ["C(=O)(OC(F)(F)F)C(=N[NH]C)CCCC(C)C"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OC(F)(F)F)CCCC(C)C)C","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OC(F)(F)F)(C(=O)C)(N=NC)CCCC(C)C","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC(F)(F)F)(C(O)([O-])(C))(N=NC)CCCC(C)C","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OC(F)(F)F)C(=N[N-]C)CCCC(C)C","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OC(F)(F)F)C(=N[NH]C)CCCC(C)C","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
